US08471005B2
The compound was made in an analogous fashion to Example 322 replacing 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine with 7-(5-Chloro-2-methoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine to afford 67.32 mg of 1-[7-(5-Chloro-2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-1H-imidazo[4,5-c]pyridine as a lyophilized powder. (M+H)=377.6. 1H NMR (400 MHz, DMSO, d6) δ 9.38 (s, 1H), 9.17 (s, 1H), 8.50 (m, 1H), 8.21 (m, 1H), 8.07 (m, 1H), 7.41 (m, 1H), 7.36 (m, 1H), 7.32 (m, 3H), 3.85 (s, 3H).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 7-(5-Chloro-2-methoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | ClC=1C=CC(=C(C1)C1=CC=C2C=NC(=NN21)S(=O)C)OC | C14H12ClN3O2S
product | 1-[7-(5-Chloro-2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-1H-imidazo[4,5-c]pyridine | 67.32 mg | ClC=1C=CC(=C(C1)C1=CC=C2C=NC(=NN21)N2C=NC=1C=NC=CC12)OC | C19H13ClN6O
